US06518423B1
N-(Imidazol-2-ylmethyl)acetamide
0.34 g of 2-aminomethylimidazole dihydrochloride was added to 20 ml of N,N-dimethylformamide in a nitrogen atmosphere. Under ice-cooling, 0.40 g of sodium hydride (60% oily) was added thereto and the resulting mixture was subjected to ultrasonication for 30 minutes. To the reaction mixture were added 20 ml of pyridine and 10 ml of acetic anhydride and the obtained mixture was stirred at room temperature for 2 days. After concentrating under reduced pressure, the residue was distributed into water and ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The extract was concentrated under reduced pressure to thereby give 0.24 g of the title compound as a pale brown solid.

reactant | 2-aminomethylimidazole dihydrochloride | 0.34 g | Cl.Cl.NCC=1NC=CN1
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | sodium hydride | 0.40 g | [H-].[Na+]
reactant | acetic anhydride | 10 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-(Imidazol-2-ylmethyl)acetamide | 0.24 g | N1C(=NC=C1)CNC(C)=O | C6H9N3O
